Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2](=[O:3])[C:12]([C:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11])([H:13])[H:14],1.33414670106
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1],4.24134673089
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.17901026934
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-5.09927831
[H:1][O:2][C@:3]12[O:4][C@:5]1([C:6]([H:7])([H:8])[H:9])[C:10]2[H:11]>>[H:1][O:2][C:3](=[O:4])/[C:10](=[C:5]/[C:6]([H:7])([H:8])[H:9])[H:11],-0.920684695149
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6](=[O:7])[H:8]>>[C:4]#[C:5][C:6](=[O:7])[H:8].[O:1]=[C:2][H:3],5.1074946795
[H:1][O:2][C:3][C:4]([H:5])=[O:6].[H:7]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7],-3.14616039245
[C:3](=[C:4]([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-6.14432414369
[H:10].[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.89423017038
[H:1][O:2]/[C:3]([H:4])=[C:7](/[C:6]=[O:5])[H:8]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6][C:7]1[H:8],2.14761615605
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])[H:15],4.59412211364
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2],7.50935578406
[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.88518463108
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:7])=[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:8]([H:9])([H:10])[H:14],5.189976257980001
[C:1][C:2]#[C:4][C:6]([H:7])([H:10])[H:11].[C:3]([H:5])#[C:8][H:9]>>[C:1]#[C:2][C:3]([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.31782221831
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-0.590252610429
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1],4.15943941135
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])=[C:9]([H:10])[H:11],4.01045384218
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],0.733218082531
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],2.6384475699700003
[C:1]#[C:2][C:3]([H:4])[C:5]([O:6])([H:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:7])[H:8].[O:6],2.9884175079000004
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],9.14660503918
[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.8093152561400005
[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[C:7]([H:8])([H:9])[H:10]>>[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.0668658039200003
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])[H:11].[O:1]=[C:2][H:3],2.42111233479
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:5],1.7468843975
[C:2]=[O:3].[O:1]>>[O:1]=[C:2]=[O:3],-5.9124526416
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1],3.66772412201
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2],6.32393867152
